US07790756B2
To a suspension of 7-amino-3,4-dihydro-2H-isoquinolin-1-one (8.1 g, 50 mmol) in conc. HCl (100 mL) in an ice-H2O bath was added a solution of NaNO2 (3.45 g, 50 mmol) in H2O dropwise at such a rate that the reaction mixture never rose above 5° C. A solution of SnCl2.2H2O(22.5 g, 0.1 mol) in conc. HCl (150 mL) was added dropwise after 30 min. The resulting mixture was stirred for another 2 h at 0° C. The precipitate was collected by suction, washed with ether to afford 7-hydrazino-3,4-dihydro-2H-isoquinolin-1-one (8.3 g), which was used for the next reaction without further purification.

reactant | 7-amino-3,4-dihydro-2H-isoquinolin-1-one | 50 mmol, 8.1 g | NC1=CC=C2CCNC(C2=C1)=O | C9H10N2O
reactant | NaNO2 | 50 mmol, 3.45 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 0.1 mol, 22.5 g | O.O.Cl[Sn]Cl
solvent | HCl | 100 mL | Cl | ClH
solvent | H2O | O | H2O
solvent | HCl | 150 mL | Cl | ClH
product | 7-hydrazino-3,4-dihydro-2H-isoquinolin-1-one | 8.3 g | N(N)C1=CC=C2CCNC(C2=C1)=O | C9H11N3O
